datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"Cn1nc(/N=N/[O-:10])nc1N.O=C(O)C1(C(=O)[O:21][H:20])CC1>>Cn1nc(/N=N/[O:10][H:20])nc1N.O=C(O)C1(C(=O)[O-:21])CC1 10=20;20,21=21",
"NC(=S)C(=S)[NH-:10].O=C([O-])C[NH+](CC(=O)[O-])Cc1[nH]c2ccccc2[n+:21]1[H:20]>>NC(=S)C(=S)[NH:10][H:20].O=C([O-])C[NH+](CC(=O)[O-])Cc1[nH]c2ccccc2[n:21]1 10=20;20,21=21",
"CC(=O)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].c1ccc(CN2CCC([NH2:10])CC2)cc1>>CC(=O)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.c1ccc(CN2CCC([NH2+:10][H:20])CC2)cc1 10=20;20,21=21",
"CC(=O)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].CCCCCCCCCCCC[NH2:10]>>CC(=O)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.CCCCCCCCCCCC[NH2+:10][H:20] 10=20;20,21=21",
"Oc1cc([O:21][H:20])[nH+]c2ccccc12.c1ccc(-c2c[n:10]c(-c3ccccc3)o2)cc1>>Oc1cc([O-:21])[nH+]c2ccccc12.c1ccc(-c2c[n+:10]([H:20])c(-c3ccccc3)o2)cc1 10=20;20,21=21",
"C[NH2+][C@@]1(C)C[C@@H]1[NH:10]C.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>C[NH2+][C@@]1(C)C[C@@H]1[NH+:10](C)[H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CC[NH:10]C(C)C.O=C1SC2=C(C=CC=C2)[CH:21]1[H:20]>>CC[NH+:10](C(C)C)[H:20].O=C1SC2=C(C=CC=C2)[CH-:21]1 10=20;20,21=21",
"CCCCCCCCCCCCCC[N:10](CCO)CC(O)CC.COc1ccc(-c2oc(-c3ccc([NH3+])cc3)c[n+:21]2[H:20])cc1>>CCCCCCCCCCCCCC[N+:10](CCO)(CC(O)CC)[H:20].COc1ccc(-c2oc(-c3ccc([NH3+])cc3)c[n:21]2)cc1 10=20;20,21=21",
"Ic1ccc([NH2+:21][H:20])cc1.O=C(N[O-:10])c1ccccn1>>Ic1ccc([NH2:21])cc1.O=C(N[O:10][H:20])c1ccccn1 10=20;20,21=21",
"CC(O)C[N:10](CCO)C(C)(C)C.O=[N+]([O-])/C(=N/[O:21][H:20])c1ccc(Cl)cc1>>CC(O)C[N+:10](CCO)(C(C)(C)C)[H:20].O=[N+]([O-])/C(=N/[O-:21])c1ccc(Cl)cc1 10=20;20,21=21",
"O=C1NC(=O)[N:21]([H:20])C(=O)C1=NO.O=S(CCCc1ccccc1)[O-:10]>>O=C1NC(=O)[N-:21]C(=O)C1=NO.O=S(CCCc1ccccc1)[O:10][H:20] 10=20;20,21=21",
"CC1=[N:10]CCS1.Cc1nn(C)c([O:21][H:20])c1Cc1ccccc1>>CC1=[N+:10]([H:20])CCS1.Cc1nn(C)c([O-:21])c1Cc1ccccc1 10=20;20,21=21",
"Cc1c(O)ccc(C(=O)[O-])[n:10]1.Nc1nc(N)[n+:21]([H:20])c2nc[nH]c12>>Cc1c(O)ccc(C(=O)[O-])[n+:10]1[H:20].Nc1nc(N)[n:21]c2nc[nH]c12 10=20;20,21=21",
"CN(C)c1sc([N+](=O)[O-])c[n+:21]1[H:20].O=[N+]([O-])c1nc(-n2cnc(Cl)n2)[n-:10]n1>>CN(C)c1sc([N+](=O)[O-])c[n:21]1.O=[N+]([O-])c1nc(-n2cnc(Cl)n2)[n:10]([H:20])n1 10=20;20,21=21",
"COc1cccn[n:10]1.C[N+](C)(C)CCC[N+](C)(C)CCCNC(=O)/C=N/[O:21][H:20]>>COc1cccn[n+:10]1[H:20].C[N+](C)(C)CCC[N+](C)(C)CCCNC(=O)/C=N/[O-:21] 10=20;20,21=21",
"COc1cc2c(cc1OC)[C@]13CC[N:10]4CC5=CCO[C@H]6CC(=O)N2[C@H]1C6[C@@]5(S(=O)(=O)[O-])C[C@@H]34.O=C1C=C(CO)OC=C1[O:21][H:20]>>COc1cc2c(cc1OC)[C@]13CC[N+:10]4([H:20])CC5=CCO[C@H]6CC(=O)N2[C@H]1C6[C@@]5(S(=O)(=O)[O-])C[C@@H]34.O=C1C=C(CO)OC=C1[O-:21] 10=20;20,21=21",
"C#CCCCCC[NH2:10].Nc1nc[n+:21]([H:20])c2c1cnn2-c1ccccc1>>C#CCCCCC[NH2+:10][H:20].Nc1nc[n:21]c2c1cnn2-c1ccccc1 10=20;20,21=21",
"CC1NCCC[NH:10]1.CC[N+:21]1([H:20])CCCC1>>CC1NCCC[NH+:10]1[H:20].CC[N:21]1CCCC1 10=20;20,21=21",
"Cc1c(C(=O)[O:21][H:20])[nH]c2ccccc12.Cc1cc(C)c(C[NH2:10])cc1N>>Cc1c(C(=O)[O-:21])[nH]c2ccccc12.Cc1cc(C)c(C[NH2+:10][H:20])cc1N 10=20;20,21=21",
"CC(=O)N1CS(=O)(=O)CC1C(=O)[O-:10].c1ccc2[nH]c(C[NH2+:21][H:20])nc2c1>>CC(=O)N1CS(=O)(=O)CC1C(=O)[O:10][H:20].c1ccc2[nH]c(C[NH2:21])nc2c1 10=20;20,21=21",
"CN(C)c1cccc(/C(=N\[O-:10])C(F)(F)F)c1.Cc1cc(C)n(-c2cc(C)[n+:21]([H:20])[nH]2)[nH+]1>>CN(C)c1cccc(/C(=N\[O:10][H:20])C(F)(F)F)c1.Cc1cc(C)n(-c2cc(C)[n:21][nH]2)[nH+]1 10=20;20,21=21",
"CC1=[N:10]CCc2c1[nH]c1ccc([N+](=O)[O-])cc21.c1coc(CSc2ncnc3nc[n:21]([H:20])c23)c1>>CC1=[N+:10]([H:20])CCc2c1[nH]c1ccc([N+](=O)[O-])cc21.c1coc(CSc2ncnc3nc[n-:21]c23)c1 10=20;20,21=21",
"CCCCC(CC)C(=O)[O:21][H:20].Oc1ccccc1C[N:10]1CCCCC1>>CCCCC(CC)C(=O)[O-:21].Oc1ccccc1C[N+:10]1([H:20])CCCCC1 10=20;20,21=21",
"O=C1Oc2c3c(cc(O)c2[O-:10])C(=O)Oc2c(O)c(O)cc1c2-3.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>O=C1Oc2c3c(cc(O)c2[O:10][H:20])C(=O)Oc2c(O)c(O)cc1c2-3.[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"O=C(C1=CC=CC=C1)[C:21](C1=CC=CC=C1)([N+](=O)[O-])[H:20].[O-]c1ccc([O-:10])cc1>>O=C(C1=CC=CC=C1)[C-:21](C1=CC=CC=C1)[N+](=O)[O-].[O-]c1ccc([O:10][H:20])cc1 10=20;20,21=21",
"Cc1cc(C#N)cc(C)[n+]1[O:21][H:20].[NH3+][C@@H](CCCCN1C(=O)C[C@H]([NH2:10])C1=O)C(=O)[O-]>>Cc1cc(C#N)cc(C)[n+]1[O-:21].[NH3+][C@@H](CCCCN1C(=O)C[C@H]([NH2+:10][H:20])C1=O)C(=O)[O-] 10=20;20,21=21",
"CC(=O)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].COc1ccc(CC[NH2:10])cc1>>CC(=O)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.COc1ccc(CC[NH2+:10][H:20])cc1 10=20;20,21=21",
"CC(O)(C(=O)[O:21][H:20])c1ccccc1.[NH3+]c1ccc(-c2c[n:10]c(-c3ccc(Br)cc3)o2)cc1>>CC(O)(C(=O)[O-:21])c1ccccc1.[NH3+]c1ccc(-c2c[n+:10]([H:20])c(-c3ccc(Br)cc3)o2)cc1 10=20;20,21=21",
"COc1ccc2c3c1O[C@H]1CCC[C@H]4[C@@H]([C@@H]2O)[NH:10]CC[C@]314.O=C(C1=CC=CC=C1)[CH:21]([N+](=O)[O-])[H:20]>>COc1ccc2c3c1O[C@H]1CCC[C@H]4[C@@H]([C@@H]2O)[NH+:10]([H:20])CC[C@]314.O=C(C1=CC=CC=C1)[CH-:21][N+](=O)[O-] 10=20;20,21=21",
"CC(=O)OC/C(=N/[O-:10])C(C)=NO.CNc1nc(C)[n+:21]([H:20])c2nc[nH]c12>>CC(=O)OC/C(=N/[O:10][H:20])C(C)=NO.CNc1nc(C)[n:21]c2nc[nH]c12 10=20;20,21=21",
